* Z:\mnt\design.r\spice\examples\1787.asc
I1 N001 0 PULSE(-100 100 10u 200u 200u 200u 600u)
R3 N002 N001 1.6m
V4 N002 0 5
XU1 NC_01 N001 0 Vout N003 N002 NC_02 LT1787
V1 N003 0 1.25
.tran 600u
.lib LTC.lib
.backanno
.end
